### PR TITLE
[Merged by Bors] - feat(Analysis/Convex): Helly's convexity theorem

### PR DESCRIPTION
**Pull request by vasnesterov**
* Prove Helly's convexity theorem (including compact and set versions) and fix typos in `Analysis.Convex.Radon`
* Add alias `Set.sInter_mono` in the style of `Set.sUnion_mono`
* Mark  `encard_coe_eq_coe_finsetCard` with `simp` and `norm_cast`

---

- [x] depends on: #14062

This PR is a natural continuation of  my recent PR #6598, introducing Radon's theorem.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by j-loreaux — COMMENTED** [review]
I would just move this to the `Analysis.Convex.Radon` file, as that file only has the `convex_partition` declaration anyway, and the imports for the current file are not egregious.

This looks pretty good, but I haven't had an in-depth think about possible ways to improve the proof yet. I'll come back to that later. For now, here are a few comments.

File: Mathlib/Analysis/Convex/Helly.lean [hunk 1]
```diff
@@ -0,0 +1,75 @@
...
+import Mathlib.Data.Set.Card
+import Mathlib.LinearAlgebra.AffineSpace.FiniteDimensional
+import Mathlib.Analysis.Convex.Radon
+
+/-!
+# Helly's theorem on convex sets
+
+Helly's theorem is a basic result in discrete geometry on the intersection of convex sets. Let
+`X₁, ⋯, Xₙ` be a finite family of convex sets in `ℝᵈ` with `n ≥ d + 1`. The theorem states that if
+any `d + 1` sets from this family intersect, then the whole family intersect.
```
[the remark this answers is not in the document]
Comment (j-loreaux) [reply Mathlib/Analysis/Convex/Helly.lean]: Mentioning it in the docs is fine, especially with a reference to the infinite compact version.

File: Mathlib/Analysis/Convex/Radon.lean [hunk 2]
```diff
@@ -49,3 +51,54 @@ theorem radon_partition (h : ¬ AffineIndependent 𝕜 f) :
...
+      rfl
+  obtain ⟨I, p, h4_I, h4_Ic⟩ := Convex.radon_partition h2
+  use p
+  rw [mem_sInter]
+  intro X hX
+  have h3 (X Y : Set E) (hX : X ∈ F) (hY : Y ∈ F) (hneq : X ≠ Y) : a ⟨Y, hY⟩ ∈ X := by
+    apply @mem_of_subset_of_mem _ (⋂₀ (F \ {Y})) _
+    apply sInter_subset_of_mem
+    · simp only [mem_diff, hX, mem_singleton_iff, hneq, not_false_eq_true, and_self]
+    · exact (h1 Y hY).some_mem
```
Comment (j-loreaux) [inline Mathlib/Analysis/Convex/Radon.lean:92]: with the `lift` suggested above, this can be golfed quite a bit, and to be honest, `mem_of_subset_of_mem` is kind of a superfluous lemma. You can just replace it with a proof of the subset fact, and then apply it to a proof of membership in the smaller set.

**Review by j-loreaux — COMMENTED** [review]
I've left some comments below, but mainly I added them for your own benefit so you can see how I transformed the proof into what I am copying below. If you want, you can just copy this proof and resolve the conversations below after you have read and understand them. If you want me to explain any part of this proof I'm happy to. Note: it was *not* the case that your proof was bad. I'm only trying to show you alternative techniques that can make things a bit easier for you.
```lean
/-- **Helly's theorem on convex sets**: If `F` is a finite family of convex sets in a vector space
of finite dimension `d`, and any `d + 1` sets of `F` intersect, then all sets of `F` intersect. -/
theorem helly_theorem (F : Set (Set E)) {hF_fin : Set.Finite F}
    (h_card : (finrank 𝕜 E) + 1 ≤ ncard F) (h_convex : ∀ X ∈ F, Convex 𝕜 X)
    (h_inter : ∀ G : Set (Set E), (G ⊆ F) → (ncard G = (finrank 𝕜 E) + 1) →
    (⋂₀ G).Nonempty) : (⋂₀ F).Nonempty := by
  obtain ⟨n, hn⟩ : ∃ n : ℕ, ncard F = n := ⟨ncard F, rfl⟩ -- for induction on ncard F
  rw [hn] at h_card
  induction' n, h_card using Nat.le_induction with k h_card hk generalizing F
  exact h_inter F (Eq.subset rfl) hn
  /- construct a family of vectors indexed by `F` such that the vector corresponding to `X : F` is
  an arbitrary element of the intersection `⋂₀ F` which *does not lie in `X`*. -/
  let a : F → E := fun X : F ↦ Set.Nonempty.some (s := ⋂₀ (F \ {(X : Set E)})) <| by
    apply @hk _ (Finite.diff hF_fin {(X : Set E)})
    · exact fun Y hY ↦ h_convex Y (mem_of_mem_diff hY)
    · exact fun G hG_1 hG_2 ↦ h_inter G (Subset.trans hG_1 (diff_subset F {(X : Set E)})) hG_2
    · rw [ncard_diff_singleton_of_mem X.property hF_fin, Nat.sub_eq_of_eq_add hn]
  /- This family of vectors is not affine independent because the number of them exceeds the
  dimension of the space. -/
  have h2 : ¬AffineIndependent 𝕜 a := by
    have : Fintype ↑F := Finite.fintype hF_fin -- for instance inferring
    rw [←finrank_vectorSpan_le_iff_not_affineIndependent 𝕜 a (n := (k - 1))]
    · exact (Submodule.finrank_le (vectorSpan 𝕜 (Set.range a))).trans (Nat.le_pred_of_lt h_card)
    · rw [←Finite.card_toFinset hF_fin, ←ncard_eq_toFinset_card F hF_fin, hn,
        ←Nat.sub_add_comm (Nat.one_le_of_lt h_card)]
      rfl
  /- Use `Convex.radon_partition` to conclude there is a subset `I` of `F` and a point `p : E`
  which lies in the convex hull of either `a '' I` or `a '' Iᶜ`. We claim that `p ∈ ⋂₀ F`.
  (here `Iᶜ` is the complement within `F`, i.e., it is effectively `F \ I`.) -/
  obtain ⟨I, p, h4_I, h4_Ic⟩ := Convex.radon_partition h2
  refine ⟨p, fun X hX ↦ ?_⟩
  lift X to F using hX
  /- It suffices to show that for any set `X` in a subcollection `I` of `F`, that the convex hull
  of `a '' Iᶜ` is contained in `X`. -/
  suffices ∀ I : Set F, X ∈ I → (convexHull 𝕜) (a '' Iᶜ) ⊆ X by
    by_cases (X ∈ I)
    · exact this I h h4_Ic
    · apply this Iᶜ h; rwa [compl_compl]
  /- Given any subcollection `I` of `F` containing `X`, because `X` is convex, we need only show
  that `a Y ∈ X` for each `Y ∈ Iᶜ` -/
  intro I h
  rw [Convex.convexHull_subset_iff (h_convex _ X.prop)]
  rintro - ⟨Y, hY, rfl⟩
  /- Since `Y ∈ Iᶜ` and `X ∈ I`, we conclude that `X ≠ Y`, and hence by the definition of `a`:
  `a Y ∈ ⋂₀ F \ {Y} ⊆ X`  -/
  have : X ≠ Y := fun h' ↦ hY (h' ▸ h)
  exact (sInter_subset_of_mem <| mem_diff_singleton.mpr ⟨X.prop, Subtype.coe_injective.ne this⟩)
    (Set.Nonempty.some_mem _)
```

**Comment by vasnesterov** [comment]
Thank you very much! And sorry for such a delay. I learned a lot from your comments. In the end, I decided to keep your proof. I don't think I can improve it :)

**Comment by j-loreaux** [comment]
@vasnesterov can you address the earlier unresolved comments?

File: Mathlib/Analysis/Convex/Radon.lean [hunk 3]
```diff
@@ -4,19 +4,28 @@ Released under Apache 2.0 license as described in the file LICENSE.
...
 # Radon's theorem on convex sets
 
 Radon's theorem states that any affine dependent set can be partitioned into two sets whose convex
 hulls intersect.
 
+As a corollary, we prove Helly's theorem, that is a basic result in discrete geometry on the
+intersection of convex sets. Let `X₁, ⋯, Xₙ` be a finite family of convex sets in `ℝᵈ` with
+`n ≥ d + 1`. The theorem states that if any `d + 1` sets from this family intersect, then the whole
+family intersect. For the infinite family of sets it is not true, as example of `Set.Ioo 0 1/n` for
+`n : ℕ` shows. But the statement is true, if we assume compactness of sets (see
```
Comment (j-loreaux) [inline Mathlib/Analysis/Convex/Radon.lean:23]:
```suggestion
As a corollary, we prove Helly's theorem, which is a basic result in discrete geometry on the
intersection of convex sets. Let `X₁, ⋯, Xₙ` be a finite family of convex sets in `ℝᵈ` with
`n ≥ d + 1`. The theorem states that if any `d + 1` sets from this family intersect nontrivially, then the whole
family intersect nontrivially. For the infinite family of sets it is not true, as example of `Set.Ioo 0 (1 / n)` for
`n : ℕ` shows. But the statement is true, if we assume compactness of sets (see
```

File: Mathlib/Analysis/Convex/Radon.lean [hunk 4]
```diff
@@ -52,53 +61,108 @@ theorem Convex.radon_partition {f : ι → E} (h : ¬ AffineIndependent 𝕜 f)
...
-    · by_contra heq
-      simp only [heq, Subtype.coe_eta] at h
-      contradiction
-  by_cases (⟨X, hX⟩ ∈ I)
-  · exact h4 I h h4_Ic
-  · apply h4 Iᶜ h; rwa [compl_compl]
+theorem Convex.helly_theorem (F : ι → Set E) {hF_fin : Finite ι}
+    (h_convex : ∀ i : ι, Convex 𝕜 (F i))
+    (h_inter : ∀ I : Set ι, (ncard I ≤ (finrank 𝕜 E) + 1) →
+    (⋂ i ∈ I, F i).Nonempty) : (⋂ i : ι, F i).Nonempty := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Convex/Radon.lean:73]: Note: I didn't mean for you to *get rid of* the set version in favor of the indexed version. I think we should have both. (Although you should probably prove one from the other.)

**Review by j-loreaux — COMMENTED** [review]
I would like to get this merged sooner rather than later. So if you have any questions let me know. Otherwise ping me (i.e., request my review) when you add the set version back in and I'll do a last review.

File: Mathlib/Analysis/Convex/Radon.lean [hunk 5]
```diff
@@ -4,14 +4,25 @@ Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Vasily Nesterov
 -/
 import Mathlib.Analysis.Convex.Combination
+import Mathlib.Data.Set.Card
+import Mathlib.LinearAlgebra.AffineSpace.FiniteDimensional
 import Mathlib.Tactic.Linarith
+import Mathlib.Topology.Compactness.Compact
+import Mathlib.Topology.Separation
```
Comment (trivial1711) [inline Mathlib/Analysis/Convex/Radon.lean:11]:
```suggestion
import Mathlib.Topology.Separation
import Mathlib.Analysis.Convex.Combination
import Mathlib.Data.Set.Card
import Mathlib.LinearAlgebra.AffineSpace.FiniteDimensional
```

This was found by typing `#minimize_imports` at the end of the file.

File: Mathlib/Analysis/Convex/Radon.lean [hunk 6]
```diff
@@ -49,3 +60,124 @@ theorem radon_partition (h : ¬ AffineIndependent 𝕜 f) :
...
+      `a j ∈ ⋂ F '' (Set.univ \ {j}) ⊆ F i`. -/
+      apply Set.mem_of_subset_of_mem (s₁ := ⋂₀ (F '' (Set.univ \ {j})))
+      · apply sInter_subset_of_mem
+        use i
+        simp only [mem_diff, Set.mem_univ, mem_singleton_iff, true_and, and_true]
+        exact fun h' ↦ hj (h' ▸ hi)
+      · apply Set.Nonempty.some_mem
+
+/-- The set version of `Convex.helly_theorem`. -/
+theorem Convex.helly_theorem_set (F : Set (Set E)) {hF_fin : Set.Finite F}
```
Comment (trivial1711) [inline Mathlib/Analysis/Convex/Radon.lean:138]:
```suggestion
theorem Convex.helly_theorem_set {F : Set (Set E)} (hF_fin : Set.Finite F)
```

`F` can be deduced from the type of `hF_fin`, so it should be the implicit one.

(A more idiomatic way of stating this pair of hypotheses is `(F : Finset (Set E))`. In fact, I would argue that many of the occurrences of `Set` in this file could be replaced by `Finset` and the theorems would become easier to use. One benefit of this approach is that you could replace every occurrence of `ncard` with the better-behaved `Finset.card`. However, this would require significant changes, so it's okay to leave it as is for now.)

**Review by trivial1711 — COMMENTED** [review]
Hi, I saw this in the queue and decided to take a look. This is a great contribution.

I am sorry for potentially delaying this even further, but I am going to ask you to make a few changes that I think are low-cost and/or important. Most of them are very minor simplifications to the proofs.

Thank you!

File: Mathlib/Analysis/Convex/Radon.lean [hunk 7]
```diff
@@ -49,3 +60,124 @@ theorem radon_partition (h : ¬ AffineIndependent 𝕜 f) :
...
+theorem Convex.helly_theorem (F : ι → Set E) {hF_fin : Finite ι}
+    (h_convex : ∀ i : ι, Convex 𝕜 (F i))
+    (h_inter : ∀ I : Set ι, (ncard I ≤ (finrank 𝕜 E) + 1) →
+    (⋂ i ∈ I, F i).Nonempty) : (⋂ i : ι, F i).Nonempty := by
+  by_cases h_card : Nat.card ι < (finrank 𝕜 E) + 1
+  · rw [show ⋂ i, F i = ⋂ i ∈ Set.univ, F i by simp]
+    apply h_inter Set.univ
+    rw [Set.ncard_univ]
+    exact le_of_lt h_card
+  · obtain ⟨n, hn⟩ : ∃ n : ℕ, Nat.card ι = n := ⟨Nat.card ι, rfl⟩ -- for induction on ncard F
```
[the remark this answers is not in the document]
Comment (vasnesterov) [reply Mathlib/Analysis/Convex/Radon.lean]: Thanks a lot! A was looking for this.

File: Mathlib/Analysis/Convex/Radon.lean (hunk 6 above)
Comment (vasnesterov) [reply Mathlib/Analysis/Convex/Radon.lean]: I tried to use `Finset`, but it requires `DecidableEq` in the part of proof where we reason about "all indexes but one".

Comment (j-loreaux) [reply Mathlib/Analysis/Convex/Radon.lean]: It's on my to-do list to finish my review here, but I was also going to suggest `Finset` among other things. You can get around the need for `DecodableEq` by invoking `classical` in the proof.

Comment (vasnesterov) [reply Mathlib/Analysis/Convex/Radon.lean]: Can you give me some kind of intuition here? When is `Finset` preferable to `Set.Finite`?

Comment (trivial1711) [reply Mathlib/Analysis/Convex/Radon.lean]: If you can package two hypotheses `F : Set β` and `hF_fin : Set.Finite F` into one hypothesis `F : Finset β`, that almost always makes the theorem easier to use.

I don't think that `Set.Finite` and `ncard` should be used at all in this file.

File: Mathlib/Analysis/Convex/Radon.lean [hunk 8]
```diff
@@ -49,3 +58,126 @@ theorem radon_partition (h : ¬ AffineIndependent 𝕜 f) :
...
+      · apply sInter_subset_of_mem
+        use i
+        simp only [mem_diff, Set.mem_univ, mem_singleton_iff, true_and, and_true]
+        exact fun h' ↦ hj (h' ▸ hi)
+      · apply Set.Nonempty.some_mem
+
+/-- The set version of `Convex.helly_theorem`. -/
+theorem Convex.helly_theorem_set {F : Set (Set E)} (hF_fin : Set.Finite F)
+    (h_convex : ∀ X ∈ F, Convex 𝕜 X)
+    (h_inter : ∀ G : Set (Set E), (G ⊆ F) → ncard G ≤ (finrank 𝕜 E) + 1 →
```
Comment (trivial1711) [inline Mathlib/Analysis/Convex/Radon.lean:136]:
```suggestion
    (h_inter : ∀ G : Set (Set E), G ⊆ F → ncard G ≤ (finrank 𝕜 E) + 1 →
```

File: Mathlib/Analysis/Convex/Radon.lean [hunk 9]
```diff
@@ -135,49 +131,53 @@ theorem Convex.helly_theorem (F : ι → Set E) {hF_fin : Finite ι}
       · apply Set.Nonempty.some_mem
 
 /-- The set version of `Convex.helly_theorem`. -/
-theorem Convex.helly_theorem_set (F : Set (Set E)) {hF_fin : Set.Finite F}
+theorem Convex.helly_theorem_set {F : Set (Set E)} (hF_fin : Set.Finite F)
     (h_convex : ∀ X ∈ F, Convex 𝕜 X)
-    (h_inter : ∀ G : Set (Set E), (G ⊆ F) → (ncard G ≤ (finrank 𝕜 E) + 1) →
+    (h_inter : ∀ G : Set (Set E), (G ⊆ F) → ncard G ≤ (finrank 𝕜 E) + 1 →
     (⋂₀ G).Nonempty) : (⋂₀ F).Nonempty := by
```
Comment (trivial1711) [inline Mathlib/Analysis/Convex/Radon.lean:137]:
```suggestion
    (h_inter : ∀ G : Set (Set E), G ⊆ F → ncard G ≤ (finrank 𝕜 E) + 1 → (⋂₀ G).Nonempty) : 
    (⋂₀ F).Nonempty := by
```

File: Mathlib/Analysis/Convex/Radon.lean [hunk 10]
```diff
@@ -49,3 +58,126 @@ theorem radon_partition (h : ¬ AffineIndependent 𝕜 f) :
...
+
+open FiniteDimensional
+
+variable [FiniteDimensional 𝕜 E]
+
+/-- **Helly's theorem on convex sets**: If `F` is a finite family of convex sets in a vector space
+of finite dimension `d`, and any `d + 1` sets of `F` intersect, then all sets of `F` intersect. -/
+theorem Convex.helly_theorem (F : ι → Set E) [Finite ι]
+    (h_convex : ∀ i : ι, Convex 𝕜 (F i))
+    (h_inter : ∀ I : Set ι, ncard I ≤ (finrank 𝕜 E) + 1 → (⋂ i ∈ I, F i).Nonempty) :
```
Comment (trivial1711) [inline Mathlib/Analysis/Convex/Radon.lean:70]:
```suggestion
    (h_inter : ∀ I : Set ι, ncard I ≤ finrank 𝕜 E + 1 → (⋂ i ∈ I, F i).Nonempty) :
```

File: Mathlib/Analysis/Convex/Radon.lean [hunk 11]
```diff
@@ -49,3 +58,126 @@ theorem radon_partition (h : ¬ AffineIndependent 𝕜 f) :
...
+    (⋂ i : ι, F i).Nonempty := by
+  by_cases h_card : Nat.card ι < (finrank 𝕜 E) + 1
```
Comment (trivial1711) [inline Mathlib/Analysis/Convex/Radon.lean:72]:
```suggestion
  by_cases h_card : Nat.card ι < finrank 𝕜 E + 1
```

File: Mathlib/Analysis/Convex/Radon.lean [hunk 12]
```diff
@@ -49,3 +58,126 @@ theorem radon_partition (h : ¬ AffineIndependent 𝕜 f) :
...
+      /- Construct a family of vectors indexed by `ι` such that the vector corresponding to `i : ι`
+      is an arbitrary element of the intersection `⋂ i : ι, F i` which *does not lie in `F i`*. -/
+    · let a (i : ι) : E := Set.Nonempty.some (s := ⋂₀ (F '' (Set.univ \ {i}))) <| by
+        let ι' := Set.univ \ {i}
+        let F' : ι' → Set E := fun j ↦ F j
+        rw [show ⋂₀ (F '' (Set.univ \ {i})) = ⋂ i, F' i by simp [ι']]
+        apply hk (F := F')
+        · exact fun i ↦ h_convex ↑i
+        · intro J hJ_card
+          rw [show (⋂ i ∈ J, F' i) = (⋂ i ∈ Subtype.val '' J, F i) by simp]
```
Comment (trivial1711) [inline Mathlib/Analysis/Convex/Radon.lean:93]:
```suggestion
          rw [show ⋂ i ∈ J, F' i = ⋂ i ∈ Subtype.val '' J, F i by simp]
```

File: Mathlib/Analysis/Convex/Radon.lean [hunk 13]
```diff
@@ -49,3 +58,126 @@ theorem radon_partition (h : ¬ AffineIndependent 𝕜 f) :
...
+        use i
+        simp only [mem_diff, Set.mem_univ, mem_singleton_iff, true_and, and_true]
+        exact fun h' ↦ hj (h' ▸ hi)
+      · apply Set.Nonempty.some_mem
+
+/-- The set version of `Convex.helly_theorem`. -/
+theorem Convex.helly_theorem_set {F : Set (Set E)} (hF_fin : Set.Finite F)
+    (h_convex : ∀ X ∈ F, Convex 𝕜 X)
+    (h_inter : ∀ G : Set (Set E), (G ⊆ F) → ncard G ≤ (finrank 𝕜 E) + 1 →
+    (⋂₀ G).Nonempty) : (⋂₀ F).Nonempty := by
```
Comment (trivial1711) [inline Mathlib/Analysis/Convex/Radon.lean:137]:
```suggestion
    (h_inter : ∀ G : Set (Set E), G ⊆ F → ncard G ≤ finrank 𝕜 E + 1 → (⋂₀ G).Nonempty) : 
    (⋂₀ F).Nonempty := by
```

File: Mathlib/Analysis/Convex/Radon.lean [hunk 14]
```diff
@@ -49,3 +58,126 @@ theorem radon_partition (h : ¬ AffineIndependent 𝕜 f) :
...
+    let G' : Set (Set E) := Subtype.val '' G
+    rw [show ⋂ i ∈ G, ↑i = ⋂₀ G' by simp [G']]
+    apply h_inter G' (by simp [G'])
+    rwa [ncard_image_of_injective G Subtype.val_injective]
+
+/-- The version of `Convex.helly_theorem` that includes an additional compactness assumption, and is
+not restricted to finite families. -/
+theorem Convex.helly_theorem_infinite [TopologicalSpace E] [T2Space E] (F : ι → Set E)
+    (h_convex : ∀ i : ι, Convex 𝕜 (F i)) (h_compact : ∀ i : ι, IsCompact (F i))
+    (h_inter : ∀ I : Set ι, I.Finite → ncard I ≤ (finrank 𝕜 E) + 1 → (⋂ i ∈ I, F i).Nonempty) :
```
Comment (trivial1711) [inline Mathlib/Analysis/Convex/Radon.lean:152]:
```suggestion
    (h_inter : ∀ I : Set ι, I.Finite → ncard I ≤ finrank 𝕜 E + 1 → (⋂ i ∈ I, F i).Nonempty) :
```

File: Mathlib/Analysis/Convex/Radon.lean [hunk 15]
```diff
@@ -49,3 +58,126 @@ theorem radon_partition (h : ¬ AffineIndependent 𝕜 f) :
...
+  /- The following is a clumsy proof that family of compact sets with the finite intersection
+  property has a nonempty intersection -/
+  have i0 : ι := Nonempty.some h_nonempty
+  rw [show ⋂ i, F i = (F i0) ∩ (⋂ i, F i) by aesop]
+  apply IsCompact.inter_iInter_nonempty
+  · exact h_compact i0
+  · intro i
+    exact (h_compact i).isClosed
+  · intro I
+    simpa using (h1 ({i0} ∪ I))
```
Comment (trivial1711) [inline Mathlib/Analysis/Convex/Radon.lean:183]:
```suggestion
    simpa using h1 ({i0} ∪ I)
```

File: Mathlib/Analysis/Convex/Radon.lean [hunk 16]
```diff
@@ -49,3 +58,126 @@ theorem radon_partition (h : ¬ AffineIndependent 𝕜 f) :
...
+      have hJ_fin : J.Finite := by
+        have : Finite ↑I := hI_fin
+        exact toFinite J
+      apply h_inter J
+      · exact Finite.image Subtype.val hJ_fin
+      · exact le_trans (Set.ncard_image_le (hs := hJ_fin)) hJ_card
+  /- The following is a clumsy proof that family of compact sets with the finite intersection
+  property has a nonempty intersection -/
+  have i0 : ι := Nonempty.some h_nonempty
+  rw [show ⋂ i, F i = (F i0) ∩ (⋂ i, F i) by aesop]
```
Comment (trivial1711) [inline Mathlib/Analysis/Convex/Radon.lean:177]:
```suggestion
  rw [show ⋂ i, F i = F i0 ∩ ⋂ i, F i by aesop]
```

**Review by trivial1711 — COMMENTED** [review]
Sorry for missing these earlier

**Comment by loefflerd** [comment]
It would be nice if we could get this PR moving again – to my (inexpert) eyes it looks like a really good contribution that would be great to get into mathlib.

I gather from discussion with Mitchell that the main unresolved issue is replacing uses of `Set.Finite` with `Finset`. @vasnesterov, is that something you'd be prepared to do in order to get this PR finished?

**Comment by vasnesterov** [comment]
I would be happy to continue (was busy last two months). But I don't understand, why do we have `Set.Finite` if it should always be replaced with `Finset`? I thought that `Finset` is for "computational" things, which is not the case here.

**Comment by loefflerd** [comment]
I think the point is that in situations like this one – where you know from the start that a certain set is guaranteed to be finite, rather than finiteness being a possibility that may or may not arise – using `Finset` leads to shorter and more self-explanatory code without wasting time checking obvious side conditions. Relatedly, a lot of the API for sums, etc, expects a `Finset` or `Fintype` as domain, so using Finsets gives more seamless access to this API.

File: Mathlib/Analysis/Convex/Radon.lean [hunk 17]
```diff
@@ -3,27 +3,37 @@ Copyright (c) 2023 Vasily Nesterov. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Vasily Nesterov
 -/
+import Mathlib.Topology.Separation
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Radon.lean:6]:
```suggestion
```

File: Mathlib/Analysis/Convex/Radon.lean [hunk 18]
```diff
@@ -3,27 +3,37 @@ Copyright (c) 2023 Vasily Nesterov. All rights reserved.
...
 import Mathlib.Analysis.Convex.Combination
-import Mathlib.Tactic.Linarith
+import Mathlib.LinearAlgebra.AffineSpace.FiniteDimensional
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Radon.lean:8]:
```suggestion
import Mathlib.LinearAlgebra.AffineSpace.FiniteDimensional
import Mathlib.Topology.Separation
```

File: Mathlib/Analysis/Convex/Radon.lean [hunk 19]
```diff
@@ -3,27 +3,37 @@ Copyright (c) 2023 Vasily Nesterov. All rights reserved.
...
 
 /-!
 # Radon's theorem on convex sets
 
 Radon's theorem states that any affine dependent set can be partitioned into two sets whose convex
 hulls intersect.
 
+As a corollary, we prove Helly's theorem, which is a basic result in discrete geometry on the
+intersection of convex sets. Let `X₁, ⋯, Xₙ` be a finite family of convex sets in `ℝᵈ` with
+`n ≥ d + 1`. The theorem states that if any `d + 1` sets from this family intersect nontrivially,
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Radon.lean:18]: You don't need `n ≥ d + 1` at all, right?

File: Mathlib/Analysis/Convex/Radon.lean [hunk 20]
```diff
@@ -48,3 +58,126 @@ theorem radon_partition (h : ¬ AffineIndependent 𝕜 f) :
...
+/-- **Helly's theorem on convex sets**: If `F` is a finite family of convex sets in a vector space
+of finite dimension `d`, and any `d + 1` sets of `F` intersect, then all sets of `F` intersect. -/
+theorem helly_theorem (F : ι → Set E) [Fintype ι]
+    (h_convex : ∀ i : ι, Convex 𝕜 (F i))
+    (h_inter : ∀ I : Finset ι, I.card ≤ finrank 𝕜 E + 1 → (⋂ i ∈ I, F i).Nonempty) :
+    (⋂ i : ι, F i).Nonempty := by
+  by_cases h_card : Fintype.card ι < finrank 𝕜 E + 1
+  · exact helly_theorem_corner (le_of_lt h_card) h_inter
+  · generalize hn : Fintype.card ι = n
+    rw [not_lt, hn] at h_card
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Radon.lean:85]: It's usually nicer to use bespoke lemmas when casing on `a < b` or `b ≤ a`
```suggestion
  obtain h_card | h_card := lt_or_le (Fintype.card ι) (finrank 𝕜 E + 1)
  · exact helly_theorem_corner (le_of_lt h_card) h_inter
  · generalize hn : Fintype.card ι = n
    rw [hn] at h_card
```

File: Mathlib/Analysis/Convex/Radon.lean [hunk 21]
```diff
@@ -48,3 +58,126 @@ theorem radon_partition (h : ¬ AffineIndependent 𝕜 f) :
...
+      rintro - ⟨j, hj, rfl⟩
+      /- Since `j ∈ Iᶜ` and `i ∈ I`, we conclude that `i ≠ j`, and hence by the definition of `a`:
+      `a j ∈ ⋂ F '' (Set.univ \ {j}) ⊆ F i`. -/
+      apply Set.mem_of_subset_of_mem (s₁ := ⋂₀ (F '' (Finset.univ.erase j)))
+      · apply sInter_subset_of_mem
+        use i
+        simp only [coe_erase, coe_univ, mem_diff, Set.mem_univ, mem_singleton_iff, true_and,
+          and_true]
+        exact fun h' ↦ hj (h' ▸ hi)
+      · apply Set.Nonempty.some_mem
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Radon.lean:133]: When one case is clearly the main one, no need to indent it
```suggestion
  generalize hn : Fintype.card ι = n
  rw [not_lt, hn] at h_card
  induction' n, h_card using Nat.le_induction with k h_card hk generalizing ι
  · exact helly_theorem_corner (le_of_eq hn) h_inter
  /- Construct a family of vectors indexed by `ι` such that the vector corresponding to `i : ι`
  is an arbitrary element of the intersection of all `F j` except `F i`. -/
  let a (i : ι) : E := Set.Nonempty.some (s := ⋂₀ (F '' (Finset.univ.erase i))) <| by
    let ι' :=  Finset.univ.erase i
    let F' : ι' → Set E := fun i ↦ F i
    rw [show ⋂₀ (F '' ι') = ⋂ i, F' i by simp [Set.iInter_subtype]]
    apply hk (F := F')
    · exact fun i ↦ h_convex ↑i
    · intro J hJ_card
      rw [show ⋂ i ∈ J, F' i = ⋂ i ∈ Finset.image Subtype.val J, F i by
        simp [Set.iInter_subtype]]
      exact h_inter _ (le_trans Finset.card_image_le hJ_card)
    · simp [ι']; omega

  /- This family of vectors is not affine independent because the number of them exceeds the
  dimension of the space. -/
  have h_ind : ¬AffineIndependent 𝕜 a := by
    rw [← finrank_vectorSpan_le_iff_not_affineIndependent 𝕜 a (n := (k - 1))]
    · exact (Submodule.finrank_le (vectorSpan 𝕜 (Set.range a))).trans (Nat.le_pred_of_lt h_card)
    · omega
  /- Use `Convex.radon_partition` to conclude there is a subset `I` of `ι` and a point `p : E`
  which lies in the convex hull of either `a '' I` or `a '' Iᶜ`. We claim that `p ∈ ⋂₀ F`. -/
  obtain ⟨I, p, h4_I, h4_Ic⟩ := Convex.radon_partition h_ind
  use p
  apply Set.mem_iInter_of_mem
  intro i
  /- It suffices to show that for any set `F i` in a subcollection `I` of `ι`, that the convex
  hull of `a '' Iᶜ` is contained in `F i`. -/
  suffices ∀ I : Set ι, i ∈ I → (convexHull 𝕜) (a '' Iᶜ) ⊆ F i by
    by_cases h : i ∈ I
    · exact this I h h4_Ic
    · apply this Iᶜ h; rwa [compl_compl]
  /- Given any subcollection `I` of `ι` containing `i`, because `F i` is convex, we need only
  show that `a j ∈ F i` for each `j ∈ Iᶜ`. -/
  intro I hi
  rw [Convex.convexHull_subset_iff (h_convex i)]
  rintro - ⟨j, hj, rfl⟩
  /- Since `j ∈ Iᶜ` and `i ∈ I`, we conclude that `i ≠ j`, and hence by the definition of `a`:
  `a j ∈ ⋂ F '' (Set.univ \ {j}) ⊆ F i`. -/
  apply Set.mem_of_subset_of_mem (s₁ := ⋂₀ (F '' (Finset.univ.erase j)))
  · apply sInter_subset_of_mem
    use i
    simp only [coe_erase, coe_univ, mem_diff, Set.mem_univ, mem_singleton_iff, true_and,
      and_true]
    exact fun h' ↦ hj (h' ▸ hi)
  · apply Set.Nonempty.some_mem
```

File: Mathlib/Analysis/Convex/Radon.lean [hunk 22]
```diff
@@ -48,3 +58,126 @@ theorem radon_partition (h : ¬ AffineIndependent 𝕜 f) :
...
+
+/-- The set version of `Convex.helly_theorem`. -/
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Radon.lean:135]: Can you avoid making the only description of an important "It's like this other result except for that thing that changes"? It makes it really annoying when you hover over it and try to understand what it says.
```suggestion
/-- **Helly's theorem** for finite sets of convex sets.

If `F` is a finite set of convex sets in a vector space of finite dimension `d`,
and any `d + 1` sets of `F` intersect, then all sets of `F` intersect. -/
```

File: Mathlib/Analysis/Convex/Radon.lean [hunk 23]
```diff
@@ -48,3 +58,126 @@ theorem radon_partition (h : ¬ AffineIndependent 𝕜 f) :
...
+    (h_card_small : Fintype.card ι ≤ finrank 𝕜 E + 1)
+    (h_inter : ∀ I : Finset ι, I.card ≤ finrank 𝕜 E + 1 → (⋂ i ∈ I, F i).Nonempty) :
+    (⋂ i : ι, F i).Nonempty := by
+  rw [show ⋂ i, F i = ⋂ i ∈ Finset.univ, F i by simp]
+  apply h_inter Finset.univ
+  rw [Finset.card_univ]
+  exact h_card_small
+
+/-- **Helly's theorem on convex sets**: If `F` is a finite family of convex sets in a vector space
+of finite dimension `d`, and any `d + 1` sets of `F` intersect, then all sets of `F` intersect. -/
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Radon.lean:77]: Then here you can do
```suggestion
/-- **Helly's theorem** for finite families of convex sets.

If `F` is a finite family of convex sets in a vector space of finite dimension `d`,
and any `d + 1` sets of `F` intersect, then all sets of `F` intersect. -/
```

File: Mathlib/Analysis/Convex/Radon.lean [hunk 24]
```diff
@@ -48,3 +58,126 @@ theorem radon_partition (h : ¬ AffineIndependent 𝕜 f) :
...
+    rw [show ⋂ i ∈ G, ↑i = ⋂₀ (G' : Set (Set E)) by simp [G']]
+    apply h_inter G'
+    · rw [Finset.image_subset_iff]
+      simp
+    · apply le_trans Finset.card_image_le
+      assumption
+
+/-- The version of `Convex.helly_theorem` that includes an additional compactness assumption, and is
+not restricted to finite families. -/
+theorem helly_theorem_infinite [TopologicalSpace E] [T2Space E] (F : ι → Set E)
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Radon.lean:155]: Technically, this does not ask the family to be infinite, so I would rather call it
```suggestion
theorem helly_theorem_family_compact [TopologicalSpace E] [T2Space E] (F : ι → Set E)
```
and note that you are missing `helly_theorem_set_compact`, the set version

File: Mathlib/Analysis/Convex/Radon.lean [hunk 25]
```diff
@@ -48,3 +58,126 @@ theorem radon_partition (h : ¬ AffineIndependent 𝕜 f) :
...
+    let G' : Finset (Set E) := Finset.image Subtype.val G
+    rw [show ⋂ i ∈ G, ↑i = ⋂₀ (G' : Set (Set E)) by simp [G']]
+    apply h_inter G'
+    · rw [Finset.image_subset_iff]
+      simp
+    · apply le_trans Finset.card_image_le
+      assumption
+
+/-- The version of `Convex.helly_theorem` that includes an additional compactness assumption, and is
+not restricted to finite families. -/
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Radon.lean:154]:
```suggestion
/-- **Helly's theorem** for families of compact convex sets.

If `F` is a family of compact convex sets in a vector space of finite dimension `d`,
and any `d + 1` sets of `F` intersect, then all sets of `F` intersect. -/
```

File: Mathlib/Analysis/Convex/Radon.lean (hunk 19 above)
Comment (vasnesterov) [reply Mathlib/Analysis/Convex/Radon.lean:18]: I am not sure here. In the [classical form](https://en.wikipedia.org/wiki/Helly%27s_theorem), Helly's theorem requires `n ≥ d + 1` and the intersection of any (exactly) `d + 1` sets to be nonempty, while I drop the `n ≥ d + 1` assumption but assume that the intersection of any collection of *no more* than `d + 1` intersects nontrivially. The classical form follows from the proved one trivially, but maybe we should have the former as `helly_theorem` and the latter as its version.

Comment (YaelDillies) [reply Mathlib/Analysis/Convex/Radon.lean:18]: Sure, I guess that's minutiae

Comment (vasnesterov) [reply Mathlib/Analysis/Convex/Radon.lean:18]: I decided to add the classical variation only for the main theorem. Otherwise, we would have 8 Helly's theorems: (families/sets) × (finite/compact) × (classical form/the other form).

Comment (YaelDillies) [reply Mathlib/Analysis/Convex/Radon.lean:18]: Is that bad? After all that's what API is for.

See eg `Algebra.Order.Rearrangement` for an example of many copies of one statement

File: Mathlib/Analysis/Convex/Radon.lean [hunk 26]
```diff
@@ -175,52 +176,93 @@ theorem helly_theorem_set {F : Finset (Set E)}
...
     simpa using h_fin ({i0} ∪ I)
 
+/--
+**Helly's theorem** for families of compact convex sets in its classical form.
+If `F` is a (possibly infinite) family of more than `d + 1` compact convex sets in a vector space of
+finite dimension `d`, and any `d + 1` sets of `F` intersect nontrivially,
+then all sets of `F` intersect nontrivially.
+-/
+theorem helly_theorem_compact [TopologicalSpace E] [T2Space E] {F : ι → Set E}
+    (h_card : Infinite ι ∨ finrank 𝕜 E + 1 ≤ Nat.card ι)
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Radon.lean:235]:
```suggestion
    (h_card : finrank 𝕜 E + 1 ≤ PartENat.card ι)
```
maybe?

File: Mathlib/Data/Fintype/Card.lean [hunk 27]
```diff
@@ -632,6 +632,18 @@ theorem card_of_bijective {f : α → β} (hf : Bijective f) : card α = card β
...
+    (h1 : s.card ≤ n) (h2 : n ≤ Fintype.card α) :
+    ∃ t : Finset α, s ⊆ t ∧ t.card = n := by
+  have := Finset.card_compl s -- for omega
+  have ⟨u, hu_ss, hu_card⟩ := Finset.exists_smaller_set sᶜ (n - s.card) (by omega)
+  use s.disjUnion u <| le_compl_iff_disjoint_left.mp (by assumption)
+  constructor
+  · simp only [disjUnion_eq_union]
+    exact subset_union_left
+  · simp only [Finset.card_disjUnion]
+    omega
```
Comment (YaelDillies) [inline Mathlib/Data/Fintype/Card.lean:645]: Lemmas around this are a mess, so I opened #14062.

File: Mathlib/Analysis/Convex/Radon.lean [hunk 28]
```diff
@@ -42,9 +56,247 @@ theorem radon_partition (h : ¬ AffineIndependent 𝕜 f) :
...
+  apply mem_of_subset_of_mem (s₁ := ⋂₀ (F '' (Finset.univ.erase j)))
+  · apply sInter_subset_of_mem
+    use i
+    simp only [coe_erase, coe_univ, mem_diff, Set.mem_univ, mem_singleton_iff, true_and,
+      and_true]
+    exact fun h' ↦ hj (h' ▸ hi)
+  · apply Set.Nonempty.some_mem
+
+/--
+**Helly's theorem** for finite families of convex sets in its classical form.
```
[the remark this answers is not in the document]
Comment (vasnesterov) [reply Mathlib/Analysis/Convex/Radon.lean]: I think this would be misleading, because it's not about convex sets of the same size, but about finsets of these sets with a fixed size. I'm not sure how to make it more descriptive anyway.

File: Mathlib/Data/Set/Card.lean [hunk 29]
```diff
@@ -79,7 +79,7 @@ theorem encard_eq_coe_toFinset_card (s : Set α) [Fintype s] : encard s = s.toFi
   have h := toFinite s
   rw [h.encard_eq_coe_toFinset_card, toFinite_toFinset]
 
-theorem encard_coe_eq_coe_finsetCard (s : Finset α) : encard (s : Set α) = s.card := by
+@[simp] theorem encard_coe_eq_coe_finsetCard (s : Finset α) : encard (s : Set α) = s.card := by
```
Comment (YaelDillies) [inline Mathlib/Data/Set/Card.lean:82]: This should also be `norm_cast`

File: Mathlib/Analysis/Convex/Radon.lean [hunk 30]
```diff
@@ -42,9 +55,238 @@ theorem radon_partition (h : ¬ AffineIndependent 𝕜 f) :
...
+    · exact this I h h4_Ic
+    · apply this Iᶜ h; rwa [compl_compl]
+  /- Given any subcollection `I` of `ι` containing `i`, because `F i` is convex, we need only
+  show that `a j ∈ F i` for each `j ∈ Iᶜ`. -/
+  intro I hi
+  rw [Convex.convexHull_subset_iff (h_convex i)]
+  rintro - ⟨j, hj, rfl⟩
+  /- Since `j ∈ Iᶜ` and `i ∈ I`, we conclude that `i ≠ j`, and hence by the definition of `a`:
+  `a j ∈ ⋂ F '' (Set.univ \ {j}) ⊆ F i`. -/
+  apply mem_of_subset_of_mem (s₁ := ⋂₀ (F '' (Finset.univ.erase j)))
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Radon.lean:131]:
```suggestion
  apply mem_of_subset_of_mem (s₁ := ⋂₀ F '' Finset.univ.erase j)
```
or even
```suggestion
  apply mem_of_subset_of_mem (s₁ := ⋂₀ F '' {j}ᶜ)
```

File: Mathlib/Analysis/Convex/Radon.lean [hunk 31]
```diff
@@ -42,9 +55,238 @@ theorem radon_partition (h : ¬ AffineIndependent 𝕜 f) :
...
+  apply Convex.helly_theorem' (F := fun x : F ↦ x.val) (𝕜 := 𝕜)
+  · exact fun X ↦ h_convex X (by simp)
+  · intro G _
+    let G' : Finset (Set E) := Finset.image Subtype.val G
+    rw [show ⋂ i ∈ G, ↑i = ⋂₀ (G' : Set (Set E)) by simp [G']]
+    apply h_inter G'
+    · rw [Finset.image_subset_iff]
+      simp
+    · apply le_trans Finset.card_image_le
+      assumption
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Radon.lean:173]: When one goal is clearly the main one/much longer than the rest, we tend to unindent it
```suggestion
  apply Convex.helly_theorem' (F := fun x : F ↦ x.val) (𝕜 := 𝕜)
  · exact fun X ↦ h_convex X (by simp)
  intro G _
  let G' : Finset (Set E) := Finset.image Subtype.val G
  rw [show ⋂ i ∈ G, ↑i = ⋂₀ (G' : Set (Set E)) by simp [G']]
  apply h_inter G'
  · rw [Finset.image_subset_iff]
    simp
  · apply le_trans Finset.card_image_le
    assumption
```

File: Mathlib/Analysis/Convex/Radon.lean [hunk 32]
```diff
@@ -42,9 +55,238 @@ theorem radon_partition (h : ¬ AffineIndependent 𝕜 f) :
...
+If `F` is a finite set of convex sets in a vector space of finite dimension `d`, and any `k ≤ d + 1`
+sets from `F` intersect nontrivially, then all sets from `F` intersect nontrivially. -/
+theorem helly_theorem_set' {F : Finset (Set E)}
+    (h_convex : ∀ X ∈ F, Convex 𝕜 X)
+    (h_inter : ∀ G : Finset (Set E), G ⊆ F → G.card ≤ finrank 𝕜 E + 1 → (⋂₀ G : Set E).Nonempty) :
+    (⋂₀ (F : Set (Set E))).Nonempty := by
+  classical -- for DecidableEq, required for the family version
+  rw [show ⋂₀ F = ⋂ X : F, (X : Set E) by ext; simp]
+  apply Convex.helly_theorem' (F := fun x : F ↦ x.val) (𝕜 := 𝕜)
+  · exact fun X ↦ h_convex X (by simp)
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Radon.lean:165]: Why do you need to explicit so many arguments? I would expect one of these works:
```suggestion
  refine Convex.helly_theorem' (F := fun x : F ↦ x.val) (fun X ↦ h_convex X (by simp)) ?_
```
or
```suggestion
  refine Convex.helly_theorem' (fun x : F ↦ h_convex x.1 x.2) ?_
```

**Review by YaelDillies — COMMENTED** [review]
A good thing to remember is that `s : Finset ι` is more general than `Fintype ι`

File: Mathlib/Analysis/Convex/Radon.lean [hunk 33]
```diff
@@ -42,9 +55,234 @@ theorem radon_partition (h : ¬ AffineIndependent 𝕜 f) :
...
+`k ≤ d + 1` sets of `F` intersect nontrivially, then all sets of `F` intersect nontrivially. -/
+theorem helly_theorem' {F : ι → Set E} [Fintype ι]
+    (h_convex : ∀ i, Convex 𝕜 (F i))
+    (h_inter : ∀ I : Finset ι, I.card ≤ finrank 𝕜 E + 1 → (⋂ i ∈ I, F i).Nonempty) :
+    (⋂ i, F i).Nonempty := by
+  obtain h_card | h_card := lt_or_le (Fintype.card ι) (finrank 𝕜 E + 1)
+  · exact helly_theorem_corner (le_of_lt h_card) h_inter
+  generalize hn : Fintype.card ι = n
+  rw [hn] at h_card
+  induction' n, h_card using Nat.le_induction with k h_card hk generalizing ι
```
[the remark this answers is not in the document]
Comment (vasnesterov) [reply Mathlib/Analysis/Convex/Radon.lean]: Here it is more convenient to use induction on the size of the set rather than its elements.

**Comment by YaelDillies** [comment]
I merged master because you are now on an old toolchain

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
